US07109200B2
4-Benzyloxycarbonyl-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone
4-Chloro-2-methylpyridine hydrochloride (941 mg), triethylamine (1.93 g) and ethanol (50 ml) were added to 4-benzyloxycarbonyl-1-[(4-ethoxycarbonylamino-4-piperidinyl)methyl]-2-piperazinone (2.0 g), and the mixture was reacted at 150° C. for 10 hours in a sealed tube. The reaction mixture was concentrated, a 10% aqueous sodium carbonate solution was added to the residue, and the mixture was extracted with dichloromethane, dried, and concentrated. The resulting residue was purified by column chromatography (dichloromethane:10% aqueous ammonia-containing methanol=20:1) to obtain the colorless amorphous title compound (1.31 g).

reactant | 4-Chloro-2-methylpyridine hydrochloride | 941 mg | Cl.ClC1=CC(=NC=C1)C
reactant | triethylamine | 1.93 g | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxycarbonyl-1-[(4-ethoxycarbonylamino-4-piperidinyl)methyl]-2-piperazinone | 2.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1(CCNCC1)NC(=O)OCC)=O | C21H30N4O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Benzyloxycarbonyl-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone | 1.31 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=CC(=NC=C1)C)NC(=O)OCC)=O | C27H35N5O5
